US06982348B2
To a solution of ethyl(2RS,3RS)-3-hydroxy-3-(4-phenoxyphenyl)-2-((4-(trifluoromethyl)phenyl)methyl)propionate (11.8 g, 26.6 mmol) in methanol (40 ml) was added 2N aqueous sodium hydroxide solution (26.6 ml, 53.2 mmol), and the mixture was stirred at room temperature for 4 hrs. The reaction solution was acidified with 1N hydrochloric acid and extracted with ethyl acetate (200 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give (2RS,3RS)-3-hydroxy-3-(4-phenoxyphenyl)-2-((4-(trifluoromethyl)phenyl)methyl)propionic acid (9.0 g, 81%).

reactant | ethyl(2RS,3RS)-3-hydroxy-3-(4-phenoxyphenyl)-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 26.6 mmol, 11.8 g | OC(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)OC1=CC=CC=C1 | C25H23F3O4
reactant | sodium hydroxide | 53.2 mmol, 2N, 26.6 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | (2RS,3RS)-3-hydroxy-3-(4-phenoxyphenyl)-2-((4-(trifluoromethyl)phenyl)methyl)propionic acid | 9.0 g, 81% | OC(C(C(=O)O)CC1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)OC1=CC=CC=C1 | C23H19F3O4
